US07101892B2
Cyclopropanesulphonylbenzene
A solution of cyclopropyl phenyl sulfide (10.5 g, 70 mmol) and Oxone™ (55.13 g, 175 mmol) in methanol (30 ml) was stirred at room temperature for 5 hours. The mixture was diluted was water and extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo.

reactant | cyclopropyl phenyl sulfide | 70 mmol, 10.5 g | C1(=CC=CC=C1)SC1CC1 | C9H10S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | Cyclopropanesulphonylbenzene | C1(CC1)S(=O)(=O)C1=CC=CC=C1 | C9H10O2S
